US07388020B2
(i) 1-{1-[3-(2-Aminophenoxy)-2-hydroxypropyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one
A solution of 1-(4-piperidinyl)-1,3-dihydro-2H-benzimidazol-2-one (0.434 g, 2.0 mmol), 2-[(2-nitrophenoxy)methyl]oxirane (0.390 g g, 2.0 mmol) in EtOH (95%, 3 ml, was stirred for 2 hours at 78° C. The reaction mixture was cooled and Pd—C (5%, 0.20 g) was added. Then ammonium formiate (1.26 g, 20 mmol) was added in portions during 5 min. After 90 min the reaction mixture was filtered through Celite, concentrated, partioned between dichloromethane and ammonium hydoxide (25%) and purified on silica (dichloromethane-methanol, 12:1, containing 1% of NH4OH (25%)) to give the subtitle compound.

reactant | 1-(4-piperidinyl)-1,3-dihydro-2H-benzimidazol-2-one | 2.0 mmol, 0.434 g | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | 2-[(2-nitrophenoxy)methyl]oxirane | 2.0 mmol, 0.390 g | [N+](=O)([O-])C1=C(OCC2OC2)C=CC=C1 | C9H9NO4
reactant | ammonium formiate | 20 mmol, 1.26 g | C(=O)[O-].[NH4+]
solvent | EtOH | CCO | C2H6O
catalyst | Pd—C | 0.20 g | [Pd] | Pd
product | 1-{1-[3-(2-Aminophenoxy)-2-hydroxypropyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one | NC1=C(OCC(CN2CCC(CC2)N2C(NC3=C2C=CC=C3)=O)O)C=CC=C1 | C21H26N4O3
